US09102614B2
Preparation of 4-bromo-2-cyanonaphthalen-1-yl perfluorobutanesulfonate:
A dichloromethane solution (20 mL) of 4-bromo-1-hydroxy-3-methyl-2-naphthonitrile (518 mg, 1.97 mmol) was treated with triethylamine (800 μL, 5.37 mmol) at −78° C. To this cooled solution was added nonafluorobutanesulfonic anhydride (1.10 g, 1.97 mmol) dropwise as a DCM emulsion. After 15 min reaction was allowed warm to room temp. Reaction was quenched with saturated sodium bicarbonate and allowed to stir at 23° C. overnight. The mixture diluted with DCM, washed with brine and chromatographed on silica gel using EtOAc and hexanes to give desired product (330 mg, 31% yield) as well as recovered starting material (245 mg, 47% yield). 1H-NMR: (400 MHz, DMSO-d6): δ 8.42 (d, J=8.4 Hz, 1H); 8.11 (d, J=8.8 Hz, 1H); 8.05-8.01 (m, 1H); 7.99-7.95 (m, 1H); 2.81 (s, 3H).

reactant | 4-bromo-1-hydroxy-3-methyl-2-naphthonitrile | 1.97 mmol, 518 mg | BrC1=C(C(=C(C2=CC=CC=C12)O)C#N)C | C12H8BrNO
reactant | triethylamine | 5.37 mmol, 800 μL | C(C)N(CC)CC | C6H15N
reactant | nonafluorobutanesulfonic anhydride | 1.97 mmol, 1.10 g | FC(C(C(C(S(=O)(=O)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8F18O5S2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-bromo-2-cyanonaphthalen-1-yl perfluorobutanesulfonate | 330 mg, 31% yield | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=C(C=C(C2=CC=CC=C12)Br)C#N)F | C15H5BrF9NO3S
